US05554594
a) 3-(5-(S)-(3-(1-Acetoxyethoxycarbonylamino)propyl)-2,4-dioxoimidazolidin-3-yl)benzoic acid
2.50 g (7.97 mmol) of 3-(5-(S)-3-aminopropyl-2,4-dioxoimidazolidin-3-yl)benzoic acid and 2.15 g (7.97 mmol) of 1-acetoxyethyl p-nitrophenyl carbonate are dissolved in 50 ml of DMF, treated with 3.33 ml (24 mmol) of triethylamine and stirred at room temperature for 3 d. The mixture is concentrated in vacuo and the residue is chromatographed on silica gel (dichloromethane/methanol/glacial acetic acid).

reactant | 3-(5-(S)-3-aminopropyl-2,4-dioxoimidazolidin-3-yl)benzoic acid | 7.97 mmol, 2.50 g | NCCC[C@H]1C(N(C(N1)=O)C=1C=C(C(=O)O)C=CC1)=O | C13H15N3O4
reactant | 1-acetoxyethyl p-nitrophenyl carbonate | 7.97 mmol, 2.15 g | C(OC(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
reactant | triethylamine | 24 mmol, 3.33 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(5-(S)-(3-(1-Acetoxyethoxycarbonylamino)propyl)-2,4-dioxoimidazolidin-3-yl)benzoic acid | C(C)(=O)OC(C)OC(=O)NCCC[C@H]1C(N(C(N1)=O)C=1C=C(C(=O)O)C=CC1)=O | C18H21N3O8
